US05424451
b) Preparation of 5-morpholinylpentylphthalimide
5-Bromopentylphthalimide (432 mg; 2.0 mmoles) and morpholine (0.35 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 5-Bromopentylphthalimide | 2.0 mmoles, 432 mg | BrCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C13H14BrNO2
reactant | morpholine | 4.0 mmoles, 0.35 ml | N1CCOCC1 | C4H9NO
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 5-morpholinylpentylphthalimide | N1(CCOCC1)CCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C17H22N2O3
